US05942507
Synthesis of N-tert-Butyl-α-(2-sulfofuran-5-yl)nitrone
Following the procedure of Example 1 above and using 5-formylfuran-2-sulfonic acid, sodium salt hydrate and N-tert-butylhydroxylamine, the title compound was prepared in 36% yield as the sodium salt, m.p. 117-120° C. (dec.).

reactant | 5-formylfuran-2-sulfonic acid | C(=O)C1=CC=C(O1)S(=O)(=O)O | C5H4O5S
reactant | sodium | [Na] | Na
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | N-tert-Butyl-α-(2-sulfofuran-5-yl)nitrone | 36% yield | C(C)(C)(C)[N+](=CC1=CC=C(O1)S(=O)(=O)O)[O-] | C9H13NO5S
